US06060462
A mixture of benzyl glycinate, p-toluenesulfonic acid salt (2.68 g, 7.94 mmol), (2-phenyl)bromoethane (0.98 g, 5.29 mmol), and solid NaHCO3 (1.56 g, 18.5 mmol) in acetonitrile (25 mL) were heated at reflux for 18 hour. The reaction was concentrated and diluted with EtOAc (25 mL). The organic solution was washed with H2O (25 mL) and brine (25 mL), dried (Na2SO4) and concentrated in vacuo. The residue was purified by elution through a pad of silica gel with a gradient mixture of hexane:EtOAc. The intermediate benzyl N-[(2-phenyl)ethyl]-glycinate (0.82 g) was obtained in 38% yield. Low Res MS: (M+H)+ =270.

reactant | (2-phenyl)bromoethane | 5.29 mmol, 0.98 g | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | NaHCO3 | 18.5 mmol, 1.56 g | C(=O)(O)[O-].[Na+]
reactant | acetonitrile | 25 mL | C(C)#N | C2H3N
product | benzyl N-[(2-phenyl)ethyl]-glycinate | 0.82 g, 38% yield | C1(=CC=CC=C1)CCNCC(=O)OCC1=CC=CC=C1 | C17H19NO2
